US08808702B2
Synthesis of (E)-1-(4-Iodophenyl)-2-(4-iodobenzylsulfonyl)-3-(4-bromophenyl)prop-2-en-1-one
The title compound is prepared by the methods described in Synthesis Example 10. A solution of 1-(4-iodophenyl)-2-(4-iodobenzylsulfonyl)ethanone (10 mmol) and 4-bromobenzaldehyde (10 mmol) was subjected to the procedure described as Method A in in part C of Synthesis Example 10 and the product obtained was purified by column chromatography.

reactant | 1-(4-iodophenyl)-2-(4-iodobenzylsulfonyl)ethanone | 10 mmol | IC1=CC=C(C=C1)C(CS(=O)(=O)CC1=CC=C(C=C1)I)=O | C15H12I2O3S
reactant | 4-bromobenzaldehyde | 10 mmol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | (E)-1-(4-Iodophenyl)-2-(4-iodobenzylsulfonyl)-3-(4-bromophenyl)prop-2-en-1-one | IC1=CC=C(C=C1)C(/C(=C\C1=CC=C(C=C1)Br)/S(=O)(=O)CC1=CC=C(C=C1)I)=O | C22H15BrI2O3S
